US06107329
(S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride
[(S)-1-(4-Fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (20.2 g, 55 mmol) was dissolved in 4M HCl-dioxane (25 mL) at 25° C. After 3 hours a thick syrup had precipitated, and an additional 4M HCl-dioxanes (10 mL) was added. The mixture was stirred for 2 hours, concentrated and the solid residue suspended in 4M HCl-dioxanes. After 2 hours at 25° C., the mixture was concentrated and the residue coevaporated twice with ether. The resulting solid was stirred in a mixture of ether (75 mL) and hexanes (10 mL) at 25° C. for 18 hours, the mixture filtered, and the filtered solid washed with 1:1 ether-hexanes and dried giving hygroscopic solid (16.3 g, 97%).

reactant | [(S)-1-(4-Fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 55 mmol, 20.2 g | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F)=O | C19H27FN2O4
reactant | HCl dioxane | 4M, 25 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | 16.3 g, 97% | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F | InChI=1S/C14H19FN2O2.ClH/c15-11-3-1-10(2-4-11)9-13(16)14(19)17-7-5-12(18)6-8-17;/h1-4,12-13,18H,5-9,16H2;1H/t13-;/m0./s1
